US05900507
363 g of 4(5)-cyano-1-methyl cyclohexene (isomer mixture obtained by the cyclo addition of isoprene and acrylonitrile) were incrementally added to a mixture of 5.4 moles of 88% sulphuric acid and 891 g of hydrocyanic acid at 27° C. to 29° C. over a period of 75 minutes, with stirring, wherein the heat of reaction was removed by refluxing the boiling hydrocyanic acid. Ten minutes after completion of the addition, 900 g of water were added and the excess hydrocyanic acid was distilled off. 735 g of a 25% aqueous ammonia solution were then added at 20° C. to 30° C. The neutralized reaction solution obtained was then extracted five times, in each case with 150 g of isobutanol. After removing the extracting agent, 525 g of crude 1-formamido-1-methyl-3(4)-cyano cyclohexane (isomer mixture) (88.5% yield, determined by gas chromatography) was obtained. The isobutanol dissolved in the aqueous ammonium sulphate solution obtained following extraction was removed by distillation. The aqueous ammonium sulphate solution (1800 g, sulphur content: 9.5%, corresponding to 39.5% ammonium sulphate), which remained and from which isobutanol had been removed, had a chemical oxygen demand (COD) of 3500 mg/l.

reactant | isoprene | C=CC(C)=C | C5H8
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 4(5)-cyano-1-methyl cyclohexene | 363 g | C(#N)[C@@H]1CC=C(CC1)C | C8H11N
